### PR TITLE
[ feat ] : Erdős Problem 742 (Murty-Simon Conjecture)

### PR DESCRIPTION
**Pull request by Dijo-404**
Formalize the Murty-Simon Conjecture on edge bounds for diameter-2-critical graphs.

## Summary

A graph is **diameter-2-critical** if it has diameter 2 and removing any edge increases the diameter. The conjecture states that such graphs have at most ⌊n²/4⌋ edges.

## Contents

- `HasDiameter2`: Definition of diameter-2 graphs
- `IsDiameter2Critical`: Definition of diameter-2-critical graphs  
- `erdos_742`: Main conjecture statement
- `variants.plesnik_bound`: Plesník's weaker bound (n²/4 + n/2)
- `variants.fan_bound`: Fan's bound (⌊n²/4⌋ + 1)
- `variants.furedi_bound`: Füredi's bound (⌊n²/4⌋ + O(n^(3/2)))

## References

- https://www.erdosproblems.com/742
- Plesník (1975), Fan (1987), Füredi (1992)

## Build Success 
Build_742

Issue #2132

### CODE REVIEW

File: FormalConjectures/ErdosProblems/742.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+open SimpleGraph
+
+namespace Erdos742
+
+variable {V : Type*} [Fintype V] [DecidableEq V]
+
+/-- A graph has diameter 2 if it is connected and every pair of distinct vertices
+is at distance at most 2. -/
+def HasDiameter2 (G : SimpleGraph V) [DecidableRel G.Adj] : Prop :=
+  G.Connected ∧ ∀ u v : V, u ≠ v → G.dist u v ≤ 2
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean]: use `SimpleGraph.diam` from mathlib instead

File: FormalConjectures/ErdosProblems/742.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+
+/-- A graph is diameter-2-critical if it has diameter 2 and removing any edge
+increases the diameter beyond 2. -/
+def IsDiameter2Critical (G : SimpleGraph V) [DecidableRel G.Adj] : Prop :=
+  HasDiameter2 G ∧ ∀ e ∈ G.edgeSet, ¬HasDiameter2 (G.deleteEdges {e})
+
+/--
+**Erdős Problem 742 (Murty-Simon Conjecture)**
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean]:
```suggestion
**Murty-Simon Conjecture**
```

No need to repeat the number here

File: FormalConjectures/ErdosProblems/742.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+
+/-!
+# Erdős Problem 742: Murty-Simon Conjecture
+
+Let G be a graph on n vertices with diameter 2 such that deleting any edge increases the diameter.
+Is it true that G has at most ⌊n²/4⌋ edges?
+
+A graph is diameter-2-critical if it has diameter 2 and removing any single edge increases
+the diameter. The conjecture asserts that such graphs have at most ⌊n²/4⌋ edges, with equality
+achieved by the complete balanced bipartite graph K_{⌈n/2⌉, ⌊n/2⌋}.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean]:
```suggestion
# Erdős Problem 742: Murty-Simon Conjecture

```
Let's have the docstring only at one place.

File: FormalConjectures/ErdosProblems/742.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean:1]: Please use latex markdown throughout all docstrings

Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean:1]: For questions use the `answer(sorry) \iff` mechanism

**Review by mo271 — COMMENTED** [review]
Thanks!
 A first few remarks...

File: FormalConjectures/ErdosProblems/742.lean
Comment (Dijo-404) [reply FormalConjectures/ErdosProblems/742.lean:1]: Sure, Ill do the changes and update you

Comment (Dijo-404) [reply FormalConjectures/ErdosProblems/742.lean:1]: Sure, Ill do the changes and update you

**Comment by Dijo-404** [comment]
@mo271 Ive made the requested changes, here's a summary of it.

## Summary
Formalizes Erdős Problem 742, the Murty-Simon Conjecture about diameter-2-critical graphs.

## Changes
- Define `IsDiameter2Critical` using mathlib's `SimpleGraph.diam`
- State the main conjecture: diameter-2-critical graphs on $n$ vertices have at most $\lfloor n^2/4 \rfloor$ edges
- Include related results by Plesník, Fan, and Füredi as variants
- Add theorem for balanced bipartite graph edge count

## Mathematical Background
A graph is diameter-2-critical if it has diameter 2 and removing any single edge increases the diameter. The Murty-Simon Conjecture asserts that such graphs have at most $\lfloor n^2/4 \rfloor$ edges, with equality achieved by the complete balanced bipartite graph $K_{\lceil n/2 \rceil, \lfloor n/2 \rfloor}$.

## References
- [erdosproblems.com/742](https://www.erdosproblems.com/742)
- Plesník (1975), Fan (1987), Füredi (1992)

## Checklist
[x] Uses `SimpleGraph.diam` from mathlib
[x] LaTeX markdown in all docstrings
[x] Uses `answer(sorry) ↔` pattern for open questions
[x] Build passes

**Comment by mo271** [comment]
please click "resolve conversation" and avoid AI slop in review messages. Do you understand the underlying math?

File: FormalConjectures/ErdosProblems/742.lean [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+
+A graph is diameter-2-critical if it has diameter 2 and removing any single edge increases
+the diameter. The conjecture asserts that such graphs have at most $\lfloor n^2/4 \rfloor$ edges,
+with equality achieved by the complete balanced bipartite graph $K_{\lceil n/2 \rceil, \lfloor n/2 \rfloor}$.
+
+Is it true that every diameter-2-critical graph on $n$ vertices has at most $\lfloor n^2/4 \rfloor$ edges?
+-/
+@[category research open, AMS 5]
+theorem erdos_742 (G : SimpleGraph V) [DecidableRel G.Adj] :
+    answer(sorry) ↔ ∀ hG : IsDiameter2Critical G,
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean]: not the correct usage, see https://github.com/google-deepmind/formal-conjectures/pull/1958

Comment (Dijo-404) [reply FormalConjectures/ErdosProblems/742.lean]: Sure, I'll look into it. Thanks for the reference.

Comment (mo271) [reply FormalConjectures/ErdosProblems/742.lean]: please don't click "resolve conversation" when they are not resolved

Comment (Dijo-404) [reply FormalConjectures/ErdosProblems/742.lean]: Resolved. I have moved the quantification inside the bi-implication (↔) . Thank you for the review.

Comment (Dijo-404) [reply FormalConjectures/ErdosProblems/742.lean]: @mo271 could u review the changes and let me know if i need to make any other changes ?

**Comment by Smetalo** [comment]
Is it planned to merge this PR or #2200?

**Comment by mo271** [comment]
@Dijo-404 can you have a look https://github.com/google-deepmind/formal-conjectures/pull/2200 and see if there are re-usable parts here? I'm unsure which one we should use

**Comment by Dijo-404** [comment]
> @Dijo-404 can you have a look #2200 and see if there are re-usable parts here? I'm unsure which one we should use

had an look at #2200, its a smaller formalization, this pr covers it all.

File: FormalConjectures/ErdosProblems/742.lean [hunk 5]
```diff
@@ -0,0 +1,105 @@
...
+
+/--
+The complete bipartite graph $K_{a, b}$ has exactly $a \cdot b$ edges. The bound
+$\lfloor n^2 / 4 \rfloor$ in the Murty-Simon conjecture is attained by the balanced
+case $K_{\lceil n/2 \rceil, \lfloor n/2 \rfloor}$.
+-/
+@[category test, AMS 5]
+theorem complete_bipartite_edge_count (a b : ℕ) :
+    (completeBipartiteGraph (Fin a) (Fin b)).edgeSet.ncard = a * b := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/742.lean]:
```suggestion
  (completeBipartiteGraph (Fin a) (Fin b)).edgeSet.ncard = a * b := by
  -- The edge set equals the image of `Fin a × Fin b` under the map
  -- `(i, j) ↦ s(Sum.inl i, Sum.inr j)`.
  let φ : Fin a × Fin b → Sym2 (Fin a ⊕ Fin b) :=
    fun p => s(Sum.inl p.1, Sum.inr p.2)
  have hedge : (completeBipartiteGraph (Fin a) (Fin b)).edgeSet = φ '' Set.univ := by
    ext e
    simp only [φ, Set.mem_image, Set.mem_univ, true_and]
    constructor
    · intro hadj
      induction e using Quot.ind
      rename_i p
      cases p with | mk a b =>
      cases a <;> cases b <;> simp_all [completeBipartiteGraph]
    · rintro ⟨⟨i, j⟩, rfl⟩
      simp [completeBipartiteGraph]
  have hinj : Function.Injective φ := by
    intro ⟨i₁, j₁⟩ ⟨i₂, j₂⟩ h
    simp only [φ, Sym2.eq_iff] at h
    rcases h with ⟨h1, h2⟩ | ⟨h1, _⟩
    · exact Prod.ext (Sum.inl.inj h1) (Sum.inr.inj h2)
    · exact absurd h1 (by simp)
  rw [hedge, Set.ncard_image_of_injective _ hinj, Set.ncard_univ,
    Nat.card_prod, Nat.card_fin, Nat.card_fin]
```

That should prove it, might as well add it

**Review by mo271 — APPROVED** [review]
Thanks, LGTM modulo one suggestion to fill one easy `sorry`

File: FormalConjectures/ErdosProblems/742.lean (hunk 5 above)
Comment (Dijo-404) [reply FormalConjectures/ErdosProblems/742.lean]: sure, i will update it

**Review by Dijo-404 — COMMENTED** [review]
updated

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
